** sch_path: /foss/designs/CHIP-PLL/divider/inverter_x4.sch
**.subckt inverter_x4 IN OUT VP GND
*.ipin IN
*.iopin VP
*.opin OUT
*.iopin GND
XM1 OUT IN GND GND sg13_lv_nmos w=0.60u l=0.13u ng=1
XM2 OUT IN VP VP sg13_lv_pmos w=0.60u l=0.13u ng=1
**.ends
.end
